**********************************************
* LM386/NJM386 spice subckt model. 
*
* Developed for EasyEDA by:
*    signality.co.uk
* 
* Subckt based on the schematic shown in the 
* NJM386 datasheet:
*   http://www.njr.com/semicon/PDF/NJM386_E.pdf
* Specifications based on the above and:
*   http://www.ti.com/lit/ds/symlink/lm386.pdf
*
* Gain accuracy, output voltage self-centring, 
* typical quiescent and input bias currents 
* and unloaded bandwidth are modelled. 
*
* Output swing is optimistic with < 8 Ohm load 
* resistances. The reason for this is unclear.
* If anyone has scope traces of the LM386 output 
* voltage driving into clipping with loads of 
* between 4 - 16 Ohms please contact: 
*   support@easyeda.com
*
* Last edited 150611
**********************************************
*
* IC pins:       2   3   7   1   8   5   6   4
*                |   |   |   |   |   |   |   |
.subckt LM386EE inn inp byp  g1  g8 out  vs gnd
*
.param
+ Rbval = 28.25k
+ Re1val = 100
+ Re2val = 1k
+ Re3val = 4
+ Rcval = 10
**
* Input stage
Q1 0 INN q1e 0 PNP1
R1 INN 0 50k
Q2 0 INP q2e 0 PNP1
R2 INP 0 50k
Q3 0 q1e q4e 0 PNP1
Q4 q4c q1e q4e 0 PNP1
Q5 0 q2e q6e 0 PNP1
Q6 q15b q2e q6e 0 PNP1
**
* Input stage current mirror
Q7 q4c q4c 0 0 NPN
Q8 q15b q4c 0 0 NPN
**
* Input bias curent and gain setting resistors
R3 q4e q1e {Rbval}
R4 g0 q4e {Re1val}
R5 q2e q6e {Rbval}
R6 G1 q6e {Re1val}
R7 G8 g0 150
R8 G1 G8 1.35k
R9 OUT G1 15k
R10 BYP g0 15k
R11 q10c BYP 15k
**
* Tail and PNP emitter follower current mirror
Q9 0 q10c q10b 0 PNP1
Q10 q10c q10b VS 0 PNP1
Q11 q11c q10b VS 0 PNP1
Q12 q12c q10b VS 0 PNP1
** 
* Emitter follower buffers and 
* quiescent current control
Q13 0 q4c q11c 0 PNP2
Q14 q18b q11c q14e 0 NPN
R12 q14e 0 {Re2val}
Q15 0 q15b q12c 0 PNP2
Q16 q18b q12c q17b 0 NPN
**
* Voltage gain stage
Q17 q23b q17b 0 0 NPN
C2 q23b 0 1p
**
* Crossover distortion/quiescent current mirror.
Q18 q18b q18b VS 0 PNP2
Q19 comp q18b VS 0 PNP2
Q20 q25b q18b VS 0 PNP2
**
* Crossover drop diodes and compensation cap.
Q21 comp comp q22b 0 NPN 5
C1 comp q15b 15p
R13 q25b comp {Rcval}
Q22 q25b q22b q23b 0 NPN 5
**
* Push-pull output stage with Sziklai pair.
Q23 q24b q23b q23e 0 PNP2
Q24 q23e q24b 0 0 NPN 100
R14 OUT q23e {Re3val}
Q25 VS q25b q25e 0 NPN 100
R15 q25e OUT {Re3val}
**
* Models
.model NPN NPN(IS=1E-14 VAF=100 BF=400 IKF=0.4 
+ XTB=1.5 BR=4 CJC=1E-12 ITF=1 VTF=2 XTF=3)
.model PNP1 PNP(IS=1E-14 VAF=100 BF=100 IKF=0.4 
+ XTB=1.5 BR=4 CJC=1E-12 ITF=1 VTF=2 XTF=3)
.model PNP2 PNP(IS=1E-14 VAF=100 BF=200 IKF=0.4 
 +XTB=1.5 BR=4 CJC=1E-12 ITF=1 VTF=2 XTF=3)
*
.ends LM386EE
**********************************************