* C:\Users\Usuario\Documents\Proyecto_Pedal\Overdrive-guitar-pedal-project\Simulaciones\Overdrive_simple.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N017 0 SINE(0 100m 1000) AC 100m
C1 N015 N017 220n
R1 N015 Vref 1000k
R2 9V Vref 10k
R3 Vref 0 10k
R4 N014 N007 1k
D2 N001 N002 1N4148
R§Pote_doble_1b P001 N001 250k
R9 N001 N005 1k
D1 N002 N001 1N4148
C6 N005 0 4.7µ
R§Pote_doble_2b N010 N013 250k
V3 9V 0 9
C2 N012 N009 1µ
C3 N019 0 4.7µ
C8 Vref 0 47µ
C4 N002 N001 100p
X§U2 N013 N009 9V 0 N009 TL072
X§U3 N014 N001 9V 0 N002 TL072
X§U4 N015 N007 9V 0 N007 TL072
R21 N012 0 10k
R22 N016 N002 10k
R23 N008 N011 10k
C7 N011 N002 16n
C9 0 N016 16n
R24 N011 N006 50k
R25 N006 N016 50k
R5 N017 0 1000k
C10 Vref 0 100n
C11 N008 0 4.7µ
R7 N004 N013 12k
R12 N013 N019 5k
R17 N002 P001 2.2k
R8 N013 N019 10k
X§U1 0 N020 NC_01 NC_02 NC_03 N021 9V 0 LM386EE
C5 N024 0 0.05µ
R13 N021 N024 10
C13 N022 N021 250µ
R15 N022 0 16
C14 N013 N020 10µ
X§U5 N006 N003 9V 0 N004 TL072
R6 N004 N003 1k
R10 N003 Vref 10k
R11 N004 N010 5k
.model D D
.lib C:\Users\Usuario\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 10ms
* Volumen
* Control de Tono
* .ac dec 1000 10 50k
.lib C:\Users\Usuario\Documents\Proyecto_Pedal\Overdrive-guitar-pedal-project\Simulaciones\LM386EE.sub
.lib C:\Users\Usuario\Documents\Proyecto_Pedal\Overdrive-guitar-pedal-project\Simulaciones\TL072.lib
.backanno
.end
